US07705027B2
5-(2,4-Bis-benzyloxy-5-phenethylphenyl)-isoxazole-3-carboxylic acid ethylamide
Palladium on charcoal catalyst (10%; 50 mg) was added to a degassed solution of 5-(2,4-Bis-benzyloxy-5-styrylphenyl)-isoxazole-3-carboxylic acid ethylamide (690 mg, 1.30 mmol) in 1,4-dioxane (50 mL) under a nitrogen atmosphere. The reaction mixture was hydrogenated for a total of 4.75 hrs with further Pd on charcoal catalyst (50 mg) added at 0.75 and 2.5 hrs. The reaction mixture was filtered through a pad of celite, which was washed with 1,4-dioxane (20 mL) and dichloromethane (20 mL). The combined filtrate solvents were removed in vacuo to afford a cream-coloured solid, which was purified by flash chromatography on silica gel (20 g, IST) eluting with 10 to 50% ethyl acetate in hexane. This affords 5-(2,4-Bis-benzyloxy-5-phenethylphenyl)-isoxazole-3-carboxylic acid ethylamide as a pale yellow solid (609 mg, 88%). LCMS: [M+H]+ 533. 1H NMR (400 MHz, CDCl3) δ 1.26 (t, 3H), 2.86-2.96 (m, 4H), 3.49 (m, 2H), 5.03 (s, 2H), 5.18 (s, 2H), 6.56 (s, 1H), 6.81 (t, 1H), 7.07 (s, 1H), 7.15-7.20 (m, 3H), 7.23-7.28 (m, 2H), 7.31-7.42 (m, 10H), 7.73 (s,1H).

reactant | 5-(2,4-Bis-benzyloxy-5-styrylphenyl)-isoxazole-3-carboxylic acid ethylamide | 1.30 mmol, 690 mg | C(C)NC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)C=CC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H30N2O4
catalyst | Palladium on charcoal | 50 mg | [Pd] | Pd
solvent | 1,4-dioxane | 50 mL | O1CCOCC1 | C4H8O2
catalyst | Pd on charcoal | 50 mg | [Pd] | Pd
product | 5-(2,4-Bis-benzyloxy-5-phenethylphenyl)-isoxazole-3-carboxylic acid ethylamide | C(C)NC(=O)C1=NOC(=C1)C1=C(C=C(C(=C1)CCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C34H32N2O4
